Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
- vaginal mass
 
Major Surgical or Invasive Procedure:
- excision of vaginal mass

 
History of Present Illness:
Ms. ___ is a ___ woman with a history of stage III 
ovarian cancer who was recently found to have a vaginal mass. 
Imaging confirmed that the mass was vaginal and not arising from 
the urethra or bladder. She presents for excision of the mass 
given the concern that this represents recurrence of her cancer. 

 
Past Medical History:
- hypertension
- glaucoma
- hypothyroidism
- insomnia
- gastroesophageal reflux disease

 
Social History:
___
Family History:
- no family history of malignancy
 
Physical Exam:
On discharge:
Vitals - WNL
General: NAD, sitting comfortably
CV: RRR
Lungs: CTAB
Abdomen: soft, no TTP
GU: small amount of staining on pad, vaginal packing removed, no 
active bleeding, Foley catheter in place and draining clear 
urine
Extremities: no calf TTP
 
Brief Hospital Course:
Ms. ___ underwent excision of the vaginal mass and 
cystoscopy. Please see the operative report for full details. 
The vaginal packing was removed on POD #1 and she had very 
minimal vaginal bleeding, with stable vital signs. She was 
discharged home. 
 
Medications on Admission:
- amlodipine
- cyclobenzaprine
- cyclosporine eye drops
- betamethasone eye drops
- esomeprazole
- famotidine
- levothyroxine
- lorazepam
- metoprolol
- timolol eye drops
- tramadol
- aspirin

 
Discharge Medications:
1. Ibuprofen 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for pain.
Disp:40 Tablet(s) Refills:0
2. Hydromorphone 2 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.
Disp:20 Tablet(s) Refills:0
3. Amlodipine 2.5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Dexamethasone 0.1 % Drops, Suspension Sig: Two (2) Drop 
Ophthalmic QHS (once a day (at bedtime)).  
5. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
6. Famotidine 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
7. Levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. Metoprolol Succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
9. Timolol Maleate 0.5 % Drops Sig: One (1) Drop Ophthalmic BID 
(2 times a day).  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
- vaginal mass, carcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please take your medications as prescribed. 
Nothing in the vagina for ___ weeks.
Please do not drive when taking narcotic pain medications. 
.
Please call your doctor for the following:
- fever greater than 100.4
- persistent nausea/vomiting
- chest pain, difficulty breathing
- heavy or increasing vaginal bleeding
 
Followup Instructions:
___